US07662823B2
Addition of precursor 2d to a solution of aluminum trichloride in dichloromethane stirring at ambient temperature followed 30 minutes later with chloromethyl or chloroethyl oxalate (according to the method described for precursor 3a) provides either the methyl or ethyl ester, respectively. Hydrolysis with KOH (as in the standard hydrolysis procedure described for precursor 4a) provided potassium (7-chloro-4-fluoro-6-azaindol-3-yl)oxoacetate. Potassium (7-chloro-4-fluoro-6-azaindol-3-yl)oxoacetate was then reacted with 1-benzoyl piperazine in the presence of DEPBT under the standard conditions (as described for precursor 5a) to provide 1-benzoyl-4-[(4-fluoro-7-chloro-6-azaindol-3-yl)-oxoacetyl]piperazine, precursor 51. 1H NMR (500 MHz, CD3OD) δ 8.40 (s, 1H), 8.04 (s, 1H), 7.46 (bs, 5H), 3.80-3.50 (m, 8H); LC/MS (ES+) m/z (M+H)+415 observed; retention time 1.247 minutes; LC/MS method: YMC ODS-A C18 S7 3.0×50 mm column; Start % B=0, Final % B=100, Gradient time=2 minutes; Flow rate=5 mL/min; detector wavelength=220 nm.

reactant | Potassium (7-chloro-4-fluoro-6-azaindol-3-yl)oxoacetate | ClC=1N=CC(=C2C(=CNC12)C(C(=O)[O-])=O)F.[K+]
reactant | 1-benzoyl piperazine | C(C1=CC=CC=C1)(=O)N1CCNCC1 | C11H14N2O
reactant | DEPBT | CCOP(=O)(OCC)ON1C(=O)C2=C(C=CC=C2)N=N1 | C11H14N3O5P
product | 1-benzoyl-4-[(4-fluoro-7-chloro-6-azaindol-3-yl)-oxoacetyl]piperazine | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)F)Cl)=O | C20H16ClFN4O3
